US08623890B2
To a solution of 2-amino-3-bromo-5-(trifluoromethyl)pyridine (10.0 g, 41.5 mmol) in 1,2 dimethoxyethane (300 mL) at room temperature was added ethyl bromopyruvate (9.889 g, 45.64 mmol) dropwise. The reaction mixture was heated to reflux for 18 h. The 1,2-dimethoxyethane was removed under reduced pressure and the residual solid was recrystallized from 1-chlorobutane. The solid was isolated by filtration and dried to afford an off-white solid, 8-bromo-6-(trifluoromethyl)imidazo[1,2-a]pyridine-2-carboxylic acid, ethyl ester (11.044 g).

reactant | 2-amino-3-bromo-5-(trifluoromethyl)pyridine | 41.5 mmol, 10.0 g | NC1=NC=C(C=C1Br)C(F)(F)F | C6H4BrF3N2
reactant | ethyl bromopyruvate | 45.64 mmol, 9.889 g | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | 1,2 dimethoxyethane | 300 mL | COCCOC | C4H10O2
product | 8-bromo-6-(trifluoromethyl)imidazo[1,2-a]pyridine-2-carboxylic acid, ethyl ester | 11.044 g | BrC=1C=2N(C=C(C1)C(F)(F)F)C=C(N2)C(=O)OCC | C11H8BrF3N2O2
